US05643878
b) 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid
Analogously to Example 1i), 2.7 g (4.43 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-(p-benzyloxyphenylmethyl)dihydrofuran-2-(3H)-one in 59 ml of dimethoxyethane and 31.8 ml of water are hydrolysed with 14.8 ml of 1M lithium hydroxide solution. The reaction mixture, partially concentrated by evaporation, is poured onto a mixture of ice, 181 ml of sat. NH4Cl solution, 16.2 ml of 10% citric acid solution and 400 ml of ethyl acetate, and THF is added until the precipitated solid has dissolved. The aqueous phase is extracted with 2 portions of ethyl acetate, and the organic phases are washed with brine, dried with Na2SO4, concentrated by evaporation and digested in hexane: TLC Rf (A)=0.07.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxyphenyl)-ethyl]-3(R)-(p-benzyloxyphenylmethyl)dihydrofuran-2-(3H)-one | 4.43 mmol, 2.7 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H41NO6
reactant | lithium hydroxide | 1M, 14.8 ml | [OH-].[Li+]
reactant | dimethoxyethane | 59 ml | C(OC)COC | C4H10O2
solvent | water | 31.8 ml | O | H2O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(p-benzyloxyphenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C38H43NO7
